US08216973B2
2-({[5-(Difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfinyl)-1,3-oxazole (Ex. 50)
Under an atmosphere of argon, 2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole (2.00 g, 6 mmol) is initially charged in 333 ml of dichloromethane. With stirring and ice-cooling, 3-chloroperbenzoic acid (1.362 g, 6 mmol, 77% pure) is then added a little at a time, and the mixture is stirred at 0° C. for a further 6 hours. For work-up, the reaction mixture is extracted twice with 2-molar sodium hydroxide solution and then washed with water and finally with saturated NaCl solution. The combined organic phases are dried over magnesium sulfate, filtered off and concentrated. The crude product is purified chromatographically (heptane:ethyl acetate, gradient 10:0 to 6:4). This gives 1.98 g of product (89.7% of theory).

reactant | 2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole | 6 mmol, 2.00 g | FC(OC1=C(C(=NN1C)C(F)(F)F)CSC=1OC=CN1)F | C10H8F5N3O2S
reactant | 3-chloroperbenzoic acid | 6 mmol, 1.362 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 333 ml | ClCCl | CH2Cl2
product | 2-({[5-(Difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfinyl)-1,3-oxazole | FC(OC1=C(C(=NN1C)C(F)(F)F)CS(=O)C=1OC=CN1)F | C10H8F5N3O3S
